US07872009B2
Step 1: Cyclopentyl-1-cyclopentyl-6-oxo-1,6-dihydropyridazine-3-carboxylate
6-Oxo-1,6-dihydropyridazine-3-carboxylic acid (1 g, 7.14 mmol) was stirred with cyclopentyl iodide (2.05 ml, 17.8 mmol) and potassium carbonate (3 g, 21.4 mmol) in 15 ml DMF for 14 h at room temperature. 50 ml CH2Cl2 was added and the reaction mixture was filtered. The filtrate was concentrated and the title compound was purified by prep HPLC. Yield: 20 mg (0.072 mmol, 1%, MS m/z: 277(100%, M+1)).

reactant | 6-Oxo-1,6-dihydropyridazine-3-carboxylic acid | 7.14 mmol, 1 g | O=C1C=CC(=NN1)C(=O)O | C5H4N2O3
reactant | cyclopentyl iodide | 17.8 mmol, 2.05 ml | C1(CCCC1)I | C5H9I
reactant | potassium carbonate | 21.4 mmol, 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | Cyclopentyl-1-cyclopentyl-6-oxo-1,6-dihydropyridazine-3-carboxylate | C1(CCCC1)OC(=O)C1=NN(C(C=C1)=O)C1CCCC1 | C15H20N2O3
